US08476300B2
1-(2-(4-(2-(5-fluorothiophen-2-yl)-6-methoxynaphthalen-1-yloxy)phenoxy)ethyl)piperidine
Add 1-(2-(4-(6-methoxy-2-(thiophen-2-yl)naphthalen-1-yloxy)phenoxy)ethyl)piperidine (153 mg, 0.4 mmol) and tetrahydrofuran (3.3 mL) to a screw-cap vial under argon. Cool the resulting solution to −78° C. Add n-butyl lithium (1.6M in hexanes; 230 μL, 0.4 mmol) dropwise. Warm the resulting solution to 0° C. and stir for 30 min. Add a solution of N-fluorobenzenesulfonimide (210.0 mg; 0.6 mmol) in tetrahydrofuran (500 μL). Allow the resulting mixture to warm to room temperature and stir for 2 hours. Add 1M HCl, dilute with ether and pass through an SCX acidic ion exchange column. Flush the column with methanol then elute desired material with 2M ammonia in methanol. Concentrate the ammonia containing eluent to give a yellow solid. Purify the yellow solid on a silica gel flash chromatography to obtain the title compound (59.0 mg, 0.1 mmol): mass spectrum (m/z): 478 (M+1).

reactant | 1-(2-(4-(6-methoxy-2-(thiophen-2-yl)naphthalen-1-yloxy)phenoxy)ethyl)piperidine | 0.4 mmol, 153 mg | COC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(OCCN2CCCCC2)C=C1)C=1SC=CC1 | C28H29NO3S
reactant | n-butyl lithium | 0.4 mmol, 1.6M, 230 μL | C(CCC)[Li]
reactant | N-fluorobenzenesulfonimide | 0.6 mmol, 210.0 mg | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
reactant | HCl | 1M | Cl | ClH
solvent | tetrahydrofuran | 500 μL | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 3.3 mL | O1CCCC1 | C4H8O
product | 1-(2-(4-(2-(5-fluorothiophen-2-yl)-6-methoxynaphthalen-1-yloxy)phenoxy)ethyl)piperidine | 0.1 mmol, 59.0 mg | FC1=CC=C(S1)C1=C(C2=CC=C(C=C2C=C1)OC)OC1=CC=C(OCCN2CCCCC2)C=C1 | C28H28FNO3S
